US07504429B2
benzyl 4-ethyl-2-formyl-5-(3-nitrophenyl)-1H-pyrrole-3-carboxylate
Following the procedures described in Example 5, replacing methyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate with benzyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate and 4-fluorophenylboronic acid with 3-nitrophenylboronic acid, the title compound was obtained. Proton NMR for the product was consistent with the title compound. HRMS (ES) exact mass calculated for C21H19N2O5 (M+H): 379.1289. Found 379.1290

reactant | benzyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate | C(C)C=1C(=C(NC1I)C=O)C(=O)OCC1=CC=CC=C1 | C15H14INO3
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 3-nitrophenylboronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | benzyl 4-ethyl-2-formyl-5-(3-nitrophenyl)-1H-pyrrole-3-carboxylate | C(C)C=1C(=C(NC1C1=CC(=CC=C1)[N+](=O)[O-])C=O)C(=O)OCC1=CC=CC=C1 | C21H18N2O5
